US07186724B2
3-(4-Benzyl-piperazin-1-yl)-1H-thieno[3,2-c]pyrazole.
To a stirred mixture of KOH(s) (56.09 g, 2.66 mol) in methyl alcohol (1.33 L) is added 3-(4-benzyl-piperazin-1-yl)-1-(toluene-4-sulfonyl)-1H-thieno[3,2-c]pyrazole (241 g, 0.532 mol). The mixture is heated at reflux for 1.25 hours, cooled to room temperature and evaporated. The residue is taked up in EtOAc (1 L) washed with water (2 L), dried (MgSO4) filtered and evaporated. The residue was recrystallized from EtOAc/Heptane yielding 129 g (81%).

reactant | KOH | 2.66 mol, 56.09 g | [OH-].[K+]
reactant | 3-(4-benzyl-piperazin-1-yl)-1-(toluene-4-sulfonyl)-1H-thieno[3,2-c]pyrazole | 0.532 mol, 241 g | C(C1=CC=CC=C1)N1CCN(CC1)C=1C2=C(N(N1)S(=O)(=O)C1=CC=C(C=C1)C)C=CS2 | C23H24N4O2S2
solvent | methyl alcohol | 1.33 L | CO | CH4O
product | 3-(4-Benzyl-piperazin-1-yl)-1H-thieno[3,2-c]pyrazole | C(C1=CC=CC=C1)N1CCN(CC1)C=1C2=C(NN1)C=CS2 | C16H18N4S
